US06465472B1
N-Methyl-3,4-(methylenedioxy)aniline
The title compound was prepared from 3,4-(methylenedioxy)aniline and iodomethane by the procedure described in example 2 in 18% yield. 1H NMR (CDCl3): 6.67 (d, J=8.3, 1H), 6.25 (d, J=2.2, 1H), 6.04 (dd, J=2.2, 8.3, 1H), 5.85 (s, 2H), 3.50 (br s, 1H), 2.79 (s, 3H).

reactant | 3,4-(methylenedioxy)aniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | iodomethane | IC | CH3I
product | N-Methyl-3,4-(methylenedioxy)aniline | 18% yield | CNC1=CC2=C(C=C1)OCO2 | C8H9NO2
